US06617336B1
94 ml of concentrated sulfuric acid and 70 ml of water are placed in a 1 l triple-necked flask equipped with a mechanical stirrer. The mixture is cooled to 0° C. with an ice bath and the dropwise addition is carried out of 45 g (366 mmol) of ortho-anisidine, followed by 0.54 g of sodium iodide. The mixture is then heated with an oil bath to 115° C. and 50 ml (604 mmol) of methacrolein are added using a syringe driver at the rate of 25 ml/h. Heating is continued for 1 h after the addition. The mixture is cooled to ambient temperature and then thrown onto a mixture of ice and of sodium carbonate. Extraction is carried out with dichloromethane. The organic phases are combined, dried over magnesium sulfate, filtered and evaporated under vacuum. The residue is purified by silica gel chromatography (eluent: dichloromethane/methanol 98/2) to provide 18.7 g of 3-methyl-8-methoxyquinoline. (Yield: 29.5%)

reactant | sulfuric acid | 94 ml | S(O)(O)(=O)=O | H2O4S
reactant | ortho-anisidine | 366 mmol, 45 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | methacrolein | 604 mmol, 50 ml | O=CC(C)=C | C4H6O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | sodium iodide | 0.54 g | [I-].[Na+]
solvent | water | 70 ml | O | H2O
product | 3-methyl-8-methoxyquinoline | 18.7 g, Yield: 29.5% | CC=1C=NC2=C(C=CC=C2C1)OC | C11H11NO
